US04749715
The title E(1) tosylate (1.24 g, 2.95 mmol) and purified potassium phthalimide (1.1 g, 5.95 mmol, 2.0 equiv.) in dimethylsulfoxide (10.5 ml, Burdick and Jackson) were heated at 90°-100° C. for 3 hours (checked by TLC Et2O-pet ether 2:1, no tosylate remaining). After cooling to room temperature, water (13 ml) was added. Material began precipitating. The mixture was poured into ice water (~50 ml) and stirred for 30 minutes. The straw colored solid was harvested by filtration and washed with more water. The solid was dissolved in warm ethyl acetate (50 ml), washed with water (2×25 ml), dried (MgSO4), filtered and freed of solvent in vacuo. The remaining solid was recrystallized from isopropyl ether --EtOAc to give corresponding phthalimide, 830 mg (69%).

reactant | tosylate | 2.95 mmol, 1.24 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | potassium phthalimide | 5.95 mmol, 1.1 g, 2.0 equiv. | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 13 ml | O | H2O
solvent | dimethylsulfoxide | 10.5 ml | CS(=O)C | C2H6OS
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
